US07781436B2
2-{3-[4-(2,6-Dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-N,N-dimethyl-acetamide
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone (preparation described herein), with (commercially available) 2-chloro-N,N-dimethyl-acetamide gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C22H23ClN2O3
reactant | 2-chloro-N,N-dimethyl-acetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 2-{3-[4-(2,6-Dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-N,N-dimethyl-acetamide | COC1=C(C(=CC=C1)OC)C1CCN(CC1)C(=O)C1=CN(C2=CC=CC=C12)CC(=O)N(C)C | C26H31N3O4
